US05516788
cis-4b,5,9b,10-Tetrahydro-4b-methyl-8-isopropylindeno[1,2-b]indole
Under an inert atmosphere, a flame-dried flash was charged with 4b,5,9b,10-tetrahydro-8-isopropylindeno[1,2-b]indole (1.49 g 5.98 mmol) and dry tetrahydrofuran (THF, 20 cm3). The solution was cooled to -78° C., and a solution of n-butyllithium in hexanes (4.0 cm3 of 1.6M solution) added dropwise. The reaction was warmed to room temperature, and dry CO2 gas bubbled through until the colour of the anion had dispersed. The solvent and excess CO2 were carefully removed at a vacuum pump, the resulting solid re-dissolved in dry THF (20 cm3) and cooled to -78° C. A further equivalent of n-butyllithium was added, and the reaction stirred at -20° C. for 30 minutes. Iodomethane (0.4 cm3, 1 eq) was added at -78° C., and the reaction warmed to room temperature and stirred for 3 hours. The solvents were removed at the water pump, and 2N HCl solution (20 cm3) added. After 20 minutes, the solution was basified with solid sodium carbonate, and extracted into ethyl acetate. The organic extract was washed with brine, dried (Na2SO4) and concentrated in vacuo. The product was purified by flash chromatography as an unstable pale yellow oil. Yield: 1.01 g, 64%. 1H NMR (CDCl3) δ: 7.30-7.15 (4H, m), 7.00 (1H, s), 6.85 (1H, d, J=7.9 Hz), 6.49 (1H, d, J=7.9 Hz), 4.0 (1H, br), 3.73 (1H, d, J=8.1 Hz), 3.49 (1H, dd, J=16.1, 8.2 Hz), 3.16 (1H, d, J=16.1 Hz), 2.79 (1H, septet, J=6.8 Hz), 1.61 (3H, s), 1.19 (6H, d, J=6.8 Hz).

reactant | 4b,5,9b,10-tetrahydro-8-isopropylindeno[1,2-b]indole | 5.98 mmol, 1.49 g | C(C)(C)C1=CC=2C3C(NC2C=C1)C1=CC=CC=C1C3 | C18H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | Iodomethane | 0.4 cm3, 1 eq | IC | CH3I
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | cis-4b,5,9b,10-Tetrahydro-4b-methyl-8-isopropylindeno[1,2-b]indole | C[C@]12NC=3C=CC(=CC3[C@H]1CC1=CC=CC=C12)C(C)C | C19H21N
